US08377942B2
CuI (211 mg) is added to a solution of 3-(4-azido-naphthalen-1-yl)-5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazole (500 mg), DIPEA (3.3 ml) and N-prop-2-ynyl-isonicotinamide (180 mg) in DMF (2.0 ml). After 5 hours at room temperature, the reaction is quenched with a saturated solution of NaHCO3 and extracted with dichloromethane. The combined organic phases are dried over Na2SO4 and concentrated in mow. The crude product is purified on a semi-preparative HPLC to yield N-(1-{4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-naphthalen-1-yl}-1H-[1,2,3]triazol-4-ylmethyl)-isonicotinamide as a colorless oil.

reactant | 3-(4-azido-naphthalen-1-yl)-5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazole | 500 mg | N(=[N+]=[N-])C1=CC=C(C2=CC=CC=C12)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C20H11Cl2F3N4O
reactant | DIPEA | 3.3 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | N-prop-2-ynyl-isonicotinamide | 180 mg | C(C#C)NC(C1=CC=NC=C1)=O | C9H8N2O
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
catalyst | CuI | 211 mg | [Cu]I
product | N-(1-{4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-naphthalen-1-yl}-1H-[1,2,3]triazol-4-ylmethyl)-isonicotinamide | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC=C(C2=CC=CC=C12)N1N=NC(=C1)CNC(C1=CC=NC=C1)=O)C(F)(F)F | C29H19Cl2F3N6O2
